 
* Author: FOSSEE
* Date:

.model Q2N2222  NPN( Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=400 Ne=1.307 
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p 
+ Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p 
+ Itf=.6 Vtf=1.7 Xtf=3 Rb=10) 
v1 net-_r2-pad1_ gnd  dc 10
v2 in gnd  ac 0.5 0
c1  net-_c1-pad1_ net-_c1-pad2_ 40u
c2  gnd net-_c2-pad2_ 100u
c3  out net-_c3-pad2_ 40u
q1 net-_c3-pad2_ net-_c1-pad2_ net-_c2-pad2_ Q2N2222
r3  net-_c1-pad2_ gnd 50k
r4  net-_c2-pad2_ gnd 1.5k
r6  out gnd 1k
r5  net-_r2-pad1_ net-_c3-pad2_ 2k
r2  net-_r2-pad1_ net-_c1-pad2_ 200k
r1  net-_c1-pad1_ in 50
* u3  out plot_log
* u2  out plot_phase
* u1  in plot_v1
.ac dec 100 10Hz 100Meg

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot log(out)
plot phase(out)
plot v(in)
.endc
.end
      			